US04971975
5-(3-Methyl-1,2,4-oxadiazol-5-yl)-1-azabicyclo[3.3.1]nonane oxalate salt (E9)
1-Azabicyclo[3.3.1]non-5-ylcarboxylic acid hydrochloride salt (D14) (1.79 g, 0.0087 mole) was treated with thionyl chloride (20 ml) and heated under reflux for 5 h. The solution was concentrated in vacuo to leave a white solid, which was taken up in chloroform (150 ml), treated with acetamide oxime (D17) (770mg, 0.0104 mole) and heated under reflux for 6 h. The reaction mixture was basified with saturated potassium carbonate solution and extracted with chloroform (3×80 ml). The combined extracts were dried (Na2SO4) and concentrated to leave a white solid, which was treated with xylene (200 ml) and heated under reflux for 1.5 h, using a Dean and Stark head to trap water formed. The reaction mixture was concentrated in vacuo to leave a yellow oil, which was chromatographed on silica gel eluting with 5% methanol/chloroform to give a colourless oil (1.60 g, 89%). This was converted to the oxalate salt and recrystallised from ethanol/ether to give the title compound (E9) as a white solid m.p. 168°-170° C.

reactant | 1-Azabicyclo[3.3.1]non-5-ylcarboxylic acid hydrochloride salt | 0.0087 mole, 1.79 g | Cl.N12CCCC(CCC1)(C2)C(=O)O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | acetamide oxime | 0.0104 mole, 770mg | C(C)(N)=NO | C2H6N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(3-Methyl-1,2,4-oxadiazol-5-yl)-1-azabicyclo[3.3.1]nonane oxalate salt | 1.60 g, 89% | C(C(=O)O)(=O)O.CC1=NOC(=N1)C12CCCN(CCC1)C2 | InChI=1S/C11H17N3O.C2H2O4/c1-9-12-10(15-13-9)11-4-2-6-14(8-11)7-3-5-11;3-1(4)2(5)6/h2-8H2,1H3;(H,3,4)(H,5,6)
